US04710507
A solution of 6-bromo-2-chloro-3-cyano-quinoline (1.2 g) in methanol (30 cm3) was heated under reflux for 16 hours with sodium methoxide [made from sodium (0.116 g) and methanol (20 cm3)]. The mixture was cooled to 0° and the solid filtered to afford 6-bromo-3-cyano-2-methoxyquinoline, m.p. 172°-174°, (0.60 g).

reactant | 6-bromo-2-chloro-3-cyano-quinoline | 1.2 g | BrC=1C=C2C=C(C(=NC2=CC1)Cl)C#N | C10H4BrClN2
reactant | sodium methoxide | 20 cm3, 0.116 g | C[O-].[Na+]
solvent | methanol | 30 cm3 | CO | CH4O
product | 6-bromo-3-cyano-2-methoxyquinoline | BrC=1C=C2C=C(C(=NC2=CC1)OC)C#N | C11H7BrN2O
